US04434170
To a solution, cooled to -5° C., of 511.7 g (200 ml) of chlorosulfonic acid (ClSO3H) are slowly added 80 g of 2,3-dimethoxy benzoic acid. Then the temperature is allowed to rise to 15° C., the mixture is poured into a solution of water and ice, and the precipitate formed is filtered. Thus, 100 g (yield: 80%) of 5-chlorosulfonyl 2,3-dimethoxy benzoic acid are obtained [(IIb), Melting point: 157° C⟧

reactant | chlorosulfonic acid | 200 ml, 511.7 g | ClS(=O)(=O)O | ClHO3S
reactant | 2,3-dimethoxy benzoic acid | 80 g | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
solvent | water | O | H2O
product | 5-chlorosulfonyl 2,3-dimethoxy benzoic acid | 100 g, yield: 80% | ClS(=O)(=O)C=1C=C(C(=C(C(=O)O)C1)OC)OC | C9H9ClO6S
